US07858632B2
4-Ethyl-7-methyl-benzo[b]thiophen-5-ol (438 mg, 2 mmol) was dissolved in 10 ml DMF, and the reaction mixture was cooled to zero degrees C. Sodium hydride (66 mg, 3 mmol) was added and the reaction mixture was stirred 30 minutes at zero C. Bromoacetonitrile (170 ul, 3 mmol) was addeed, and the reaction mixture was stirred 10 minutes at zero degrees C, then allowed to warm to room temperature. The reaction was quenched after 1 hour at room temperature with water, diluted with ethyl acetate, washed with water, brine, and dried over magnesium sulfate. Solvent was removed in vacuo, and the residue chromatographed (10% ethyl acetate in hexanes) to give 422 mg of (4-Ethyl-7-methyl-benzo[b]thiophen-5-yloxy)-acetonitrile as an oil, 80% .

reactant | 4-Ethyl-7-methyl-benzo[b]thiophen-5-ol | 2 mmol, 438 mg | C(C)C1=C(C=C(C=2SC=CC21)C)O | C11H12OS
reactant | Sodium hydride | 3 mmol, 66 mg | [H-].[Na+]
reactant | Bromoacetonitrile | 3 mmol, 170 ul | BrCC#N | C2H2BrN
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (4-Ethyl-7-methyl-benzo[b]thiophen-5-yloxy)-acetonitrile | 422 mg | C(C)C1=C(C=C(C=2SC=CC21)C)OCC#N | C13H13NOS
